US06103708
[2-(4-Bromobenzyl)-4,5-dimethyl-thiophen-3-yl]-(3-cyclopentyl-4-hydroxy-phenyl)-methanone
The title compound was prepared according to the procedure in Example 5, step 3 using [2-(4-bromobenzyl)-4,5-dimethyl-thiophen-3-yl]-(3-cyclopentyl-4-methoxy-phenyl)-methanone (4.05 g, 8.39 mmol) and 1M boron tribromide/CH2Cl2 (26.0 mL) in CH2Cl2. Purification on Biotage KP-Sil eluting with 15% acetone/hexane gave 2.90 g (74%) of the title compound. (DMSO-d6) δ 1.41-1.48 (m, 2 H), 1.59-1.74 (m, 4 H), 1.82 (s, 3 H), 1.89-1.96 (m, 2 H), 2.27 (s, 3 H), 3.20 (quintet, 1 H), 3.84 (s, 2 H), 6.88 (d, 1 H), 7.03 (d, 2 H), 7.39-7.43 (m, 3 H), 7.54 (d, 1 H), 10.47 (s, 1 H).

reactant | [2-(4-bromobenzyl)-4,5-dimethyl-thiophen-3-yl]-(3-cyclopentyl-4-methoxy-phenyl)-methanone | 8.39 mmol, 4.05 g | BrC1=CC=C(CC=2SC(=C(C2C(=O)C2=CC(=C(C=C2)OC)C2CCCC2)C)C)C=C1 | C26H27BrO2S
reactant | boron tribromide CH2Cl2 | 1M, 26.0 mL | B(Br)(Br)Br.C(Cl)Cl
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | [2-(4-Bromobenzyl)-4,5-dimethyl-thiophen-3-yl]-(3-cyclopentyl-4-hydroxy-phenyl)-methanone | 2.90 g, 74% | BrC1=CC=C(CC=2SC(=C(C2C(=O)C2=CC(=C(C=C2)O)C2CCCC2)C)C)C=C1 | C25H25BrO2S
